US06656959B1
A mixture of 4-(cyclopentyloxy)-5-methoxy-2-pyridineethanamine (0.026 mol) and triethylamine (0.03 mol) in CH2Cl2 (75ml) was stirred at 0-5° C. A mixture of phenyl carbonochloridate (0.03 mol) in CH2Cl2 (25ml) was added dropwise. The mixture was stirred at RT for 1 hour and then washed with NaOH (1N) and water. The organic layer was separated, dried, filtered and the solvent was evaporated. The residue was purified over silica gel on a glass filter (eluent: CH2Cl2/CH3OH 98/2). The pure fractions were collected and the solvent was evaporated. The residue was dried, yielding 7.2g (77.7%) of phenyl [2-[4-(cyclopentyloxy)-5-methoxy-2-pyridinyl]ethyl]carbamate (interm. 3).

reactant | 4-(cyclopentyloxy)-5-methoxy-2-pyridineethanamine | 0.026 mol | C1(CCCC1)OC1=CC(=NC=C1OC)CCN | C13H20N2O2
reactant | triethylamine | 0.03 mol | C(C)N(CC)CC | C6H15N
reactant | phenyl carbonochloridate | 0.03 mol | C(OC1=CC=CC=C1)(=O)Cl | C7H5ClO2
solvent | CH2Cl2 | 75ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 25ml | C(Cl)Cl | CH2Cl2
product | phenyl [2-[4-(cyclopentyloxy)-5-methoxy-2-pyridinyl]ethyl]carbamate | 7.2g, 77.7% | C1(CCCC1)OC1=CC(=NC=C1OC)CCNC(OC1=CC=CC=C1)=O | C20H24N2O4
